US04203987
2,3,4,4a-Tetrahydro-3-[5-(4-Pyridinyl)Pentyl]-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One
To a solution of 6.2 g. (0.03 mole) of 2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one, hydrochloride in 200 ml. acetone is added 15 g. of powdered potassium carbonate, 0.5 ml. of triethylamine, 5 g. of potassium iodide, and 7 g. (0.038 mole) of 5-(4-pyridyl)pentyl bromide. The suspension is stirred and refluxed for 72 hours, cooled, and filtered. The filtrate is concentrated under reduced pressure and the residue is dissolved in methylene dichloride, washed with saline, and dried. The dried organic layer is concentrated and the residue purified by column chromatography using Silicar CC-7. This title compound is obtained as base and converted to hydrochloride salt.

reactant | 2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one, hydrochloride | 0.03 mole | Cl.C1CNCC2N1C1=CC=CC=C1NC2=O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | 5-(4-pyridyl)pentyl bromide | 0.038 mole | N1=CC=C(C=C1)CCCCCBr | C10H14BrN
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
product | 2,3,4,4a-Tetrahydro-3-[5-(4-Pyridinyl)Pentyl]-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One | N1=CC=C(C=C1)CCCCCN1CC2N(C3=CC=CC=C3NC2=O)CC1 | C21H26N4O
